US08084614B2
To a stirred suspension of 4-chloro-3-ureido-benzoic acid (26 g, 121 mmol) in ethanol (375 mL) was added 1,1,1-trifluoro-2,4-pentanedione (28 g, 182 mmol) and concentrated (95%) sulfuric acid (50 mL). The reaction mixture was heated at 85° C. for 6 h. After cooling to room temperature, the mixture was partitioned between water (500 mL) and DCM (1 L) and to this was added 6N aq. NaOH, until pH 9-10 attained. The DCM layer was separated and dried over MgSO4 and filtered. Concentration in vacuo gave an orange oil which was purified via silica gel flash chromatography (eluting with a gradient of 10% to 25% EtOAc in hexanes). The resulting orange solid was further triturated with diethyl ether to give 4-chloro-3-(6-methyl-2-oxo-4-trifluoromethyl-2H-pyrimidin-1-yl)-benzoic acid ethyl ester (3.77 g, 9%) as a colorless solid. MS (M+H)+: 360.8, tR=2.670 min (method 1); 1H NMR (CDCl3) δ 8.16 (1H, dd, J=8.4, 2.1 Hz), 8.00 (1H, d, J=1.8 Hz), 7.70 (1H, d, J=8.4 Hz), 6.63 (1H, s), 4.39 (2H, q, J=6.9 Hz), 2.15 (3H, s), 1.39 (3H, t, J=6.9 Hz).

reactant | 4-chloro-3-ureido-benzoic acid | 121 mmol, 26 g | ClC1=C(C=C(C(=O)O)C=C1)NC(=O)N | C8H7ClN2O3
reactant | 1,1,1-trifluoro-2,4-pentanedione | 182 mmol, 28 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | ethanol | 375 mL | C(C)O | C2H6O
product | 4-chloro-3-(6-methyl-2-oxo-4-trifluoromethyl-2H-pyrimidin-1-yl)-benzoic acid ethyl ester | 3.77 g, 9% | C(C)OC(C1=CC(=C(C=C1)Cl)N1C(N=C(C=C1C)C(F)(F)F)=O)=O | C15H12ClF3N2O3
